US06432993B1
t-Butyl N-[2-amino-5-(4-trifluoromethylphenoxy)phenyl]-N-methylcarbamate
Sodium bicarbonate (4.2 g) and sodium dithionite (3.5 g) were added to a solution of t-butyl N-methyl-N-[5-(4-trifluoromethylphenoxy)-2-nitrophenyl]carbamate in water/dioxane=1/5 (60 ml). The mixture was heated at reflux for 1 hour. At the end of this time the reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=3/1-2/1 as the eluant to give the title compound (0.7 g).

reactant | Sodium bicarbonate | 4.2 g | C([O-])(O)=O.[Na+]
reactant | sodium dithionite | 3.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | t-butyl N-methyl-N-[5-(4-trifluoromethylphenoxy)-2-nitrophenyl]carbamate | CN(C(OC(C)(C)C)=O)C1=C(C=CC(=C1)OC1=CC=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C19H19F3N2O5
solvent | water dioxane | O.O1CCOCC1
product | t-Butyl N-[2-amino-5-(4-trifluoromethylphenoxy)phenyl]-N-methylcarbamate | 0.7 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)N(C(OC(C)(C)C)=O)C | C19H21F3N2O3
